US06459001B1
3a,4,5,6,7,7a-Hexahydro 2-(Propylthio) 1H-Benzimidazole Monohydrobromide
1 g of octahydro 2H-benzimidazol-2-thione and 1.3 ml of bromopropane in 20 ml of ethanol are heated under reflux until complete dissolution is obtained. The solvent is evaporated off under reduced pressure, the residue is taken up in a minimum amount of dichloromethane, isopropyl ether is added, the solvents are evaporated off under reduced pressure, the residue is recrystallized from isopropyl ether, the expected product is separated off and dried with a yield of 95%.

reactant | octahydro 2H-benzimidazol-2-thione | 1 g | N1C(NC2C1CCCC2)=S | C7H12N2S
reactant | bromopropane | 1.3 ml | BrCCC | C3H7Br
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3a,4,5,6,7,7a-Hexahydro 2-(Propylthio) 1H-Benzimidazole Monohydrobromide | yield of 95% | Br.C(CC)SC1=NC2C(N1)CCCC2 | InChI=1S/C10H18N2S.BrH/c1-2-7-13-10-11-8-5-3-4-6-9(8)12-10;/h8-9H,2-7H2,1H3,(H,11,12);1H
